US08497381B2
Step 6: [6-Methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
To [6-methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.091 g, 0.18 mmol) in THF (0.9 mL) and MeOH (0.7 mL) was added IN aqueous NaOH (0.45 mL), and the reaction was stirred at room temperature for 2 hours. The mixture was acidified with 1N aqueous HCl and extracted with CH2Cl2. The combined organic layers were washed with H2O, dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 498.

reactant | [6-methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 0.18 mmol, 0.091 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]2[C@H]1C=1C=CC=CC1C2)=O)=O | C28H24F3NO5
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.9 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.7 mL | CO | CH4O
solvent | NaOH | 0.45 mL | [OH-].[Na+]
product | [6-Methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | COC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]2[C@H]1C=1C=CC=CC1C2)=O)CC(=O)O | C27H22F3NO5
